US06852731B2
2-Chloro-1-pyrimidin-2-ylethanone
2-{2-Chloro-1-[(triisopropylsilyl)oxy]ethenyl}pyrimidine (19.4 g, 62.2 mmol) was dissolved in acetonitrile (90 ml) and treated with 48% HF (10 ml) for 4 hr. Sat. sodium bicarbonate solution (ca. 250 ml) was then added carefully to pH7 and the mixture extracted with CH2Cl2 (3×200 ml). After drying (Na2SO4), filtration and evaporation two oils were obtained, the upper colorless oil was decanted off and discarded and the lower oil crystallized to an oily solid. Chromatography over silica gel (500 g) eluting with 2.5% MeOH—CHCl3 gave the product as a pale yellow solid (6.50 g) mp:73-80°.

reactant | 2-{2-Chloro-1-[(triisopropylsilyl)oxy]ethenyl}pyrimidine | 62.2 mmol, 19.4 g | ClC=C(O[Si](C(C)C)(C(C)C)C(C)C)C1=NC=CC=N1 | C15H25ClN2OSi
reactant | sodium bicarbonate | ca. 250 ml | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 90 ml | C(C)#N | C2H3N
product | 2-Chloro-1-pyrimidin-2-ylethanone | 6.50 g | ClCC(=O)C1=NC=CC=N1 | C6H5ClN2O
